* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 5.255758e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((2.651375e-02)*u*u + (-4.663528e-01)*u + (-2.603381e+00)),1.462923e+01),3.844522e+02)}
.param L_a = {min(max(exp((-1.081373e+00)*u*u + (-1.959696e+01)*u + (-1.006785e+02)),1.608262e-07),1.023797e-05)}
.param R_pl = {min(max(exp((2.603528e+00)*u*u + (4.505667e+01)*u + (1.985850e+02)),3.577540e+01),1.171173e+07)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),6.666667e+08),1.500000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),6.666667e-13),1.500000e-12)}
.param G0 = {((1.286212e-04)*u*u + (2.668851e-03)*u + (1.395696e-02))}
.param G1 = {((2.816041e-04)*u*u + (5.879643e-03)*u + (3.062216e-02))}
.param w1 = {min(max(exp((8.813676e-01)*u*u + (1.553759e+01)*u + (8.351416e+01)),2.345350e+06),1.759884e+08)}
.param G2 = {((-5.892386e-05)*u*u + (-1.189376e-03)*u + (-6.063866e-03))}
.param w2 = {min(max(exp((5.583740e-01)*u*u + (9.667560e+00)*u + (6.012215e+01)),6.212854e+07),1.770041e+09)}
.param G3 = {((6.743701e-06)*u*u + (1.166717e-04)*u + (4.831031e-04))}
.param w3 = {min(max(exp((-4.146005e-02)*u*u + (-7.475830e-01)*u + (1.564555e+01)),1.055965e+08),2.719162e+08)}
.param pcb0 = {((1.398724e-05)*u*u + (3.370957e-04)*u + (2.118997e-03))}
.param pcb1 = {((-1.666794e-12)*u*u + (-3.091167e-11)*u + (-1.268316e-10))}
.param pcw0 = {min(max(exp((-3.064057e-02)*u*u + (-1.364557e-01)*u + (1.761383e+01)),3.604764e+06),2.522287e+07)}
.param pcq = {min(max(exp((-9.186693e-02)*u*u + (-1.570920e+00)*u + (-6.726181e+00)),4.109491e-01),1.475397e+00)}
.param gnw = {min(max(exp((-1.694050e-01)*u*u + (-3.280024e+00)*u + (-2.422759e+01)),1.136983e-04),3.290715e-04)}
.param gn1 = {min(max(exp((-2.366954e-02)*u*u + (5.606996e-01)*u + (5.992190e+00)),3.874102e-02),1.126289e+00)}
.param gn2 = {min(max(exp((-2.039458e-02)*u*u + (6.181789e-01)*u + (4.807032e+00)),9.329845e-03),2.677561e-01)}
.param gn3 = {min(max(exp((-3.621615e-02)*u*u + (3.404037e-01)*u + (2.285753e+00)),2.375510e-03),7.255125e-02)}
.param gn4 = {min(max(exp((7.597354e-02)*u*u + (2.289545e+00)*u + (9.695534e+00)),1.376434e-03),2.567380e-02)}
.param gn5 = {min(max(exp((-1.540598e+00)*u*u + (-2.577685e+01)*u + (-1.119766e+02)),9.793265e-07),2.336900e-02)}
.param gn6 = {min(max(exp((-3.111323e+00)*u*u + (-5.837445e+01)*u + (-2.827390e+02)),1.400920e-07),1.316863e-04)}
.param vreg = {((1.646189e-05)*u*u + (-4.792020e-03)*u + (4.810138e-01))}
.param COUT=3.810404e-10 ESR=2.816089e+01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-2.246156e-02,1.000000e-06,-6.307012e-03,1.300000e-05,-2.934091e-03,2.500000e-05,-9.323908e-04,3.700000e-05,5.010672e-04,4.900000e-05,1.623710e-03,6.100000e-05,2.549648e-03,7.300000e-05,3.339599e-03,8.500000e-05,4.029778e-03,9.700000e-05,4.643553e-03,1.090000e-04,5.196896e-03,1.210000e-04,5.701216e-03,1.330000e-04,6.164950e-03,1.450000e-04,6.594520e-03,1.570000e-04,6.994925e-03,1.690000e-04,7.370137e-03,1.810000e-04,7.723364e-03,1.930000e-04,8.057233e-03,2.050000e-04,8.373928e-03,2.170000e-04,8.675278e-03,2.290000e-04,8.962835e-03,2.410000e-04,9.237926e-03,2.530000e-04,9.501693e-03,2.650000e-04,9.755129e-03,2.770000e-04,9.999101e-03,2.890000e-04,1.023437e-02,3.010000e-04,1.046161e-02,3.130000e-04,1.068141e-02,3.250000e-04,1.089432e-02,3.370000e-04,1.110080e-02,3.490000e-04,1.130130e-02,3.610000e-04,1.149618e-02,3.730000e-04,1.168581e-02,3.850000e-04,1.187051e-02,3.970000e-04,1.205056e-02,4.090000e-04,1.222623e-02,4.210000e-04,1.239777e-02,4.330000e-04,1.256540e-02,4.450000e-04,1.272932e-02,4.570000e-04,1.288972e-02,4.690000e-04,1.304679e-02,4.810000e-04,1.320068e-02,4.930000e-04,1.330566e-02,5.010000e-04,1.355200e-02,5.210000e-04,1.379084e-02,5.410000e-04,1.402271e-02,5.610000e-04,1.424810e-02,5.810000e-04,1.446743e-02,6.010000e-04,1.468111e-02,6.210000e-04,1.488949e-02,6.410000e-04,1.509288e-02,6.610000e-04,1.529159e-02,6.810000e-04,1.548588e-02,7.010000e-04,1.567599e-02,7.210000e-04,1.586217e-02,7.410000e-04,1.604461e-02,7.610000e-04,1.622351e-02,7.810000e-04,1.639904e-02,8.010000e-04,1.657138e-02,8.210000e-04,1.674067e-02,8.410000e-04,1.690706e-02,8.610000e-04,1.707068e-02,8.810000e-04,1.723165e-02,9.010000e-04,1.739010e-02,9.210000e-04,1.754613e-02,9.410000e-04,1.769984e-02,9.610000e-04,1.785134e-02,9.810000e-04,1.800070e-02,1.001000e-03,1.814801e-02,1.021000e-03,1.829337e-02,1.041000e-03,1.843683e-02,1.061000e-03,1.857847e-02,1.081000e-03,1.871837e-02,1.101000e-03,1.885658e-02,1.121000e-03,1.899316e-02,1.141000e-03,1.912818e-02,1.161000e-03,1.926168e-02,1.181000e-03,1.939372e-02,1.201000e-03,1.952435e-02,1.221000e-03,1.965362e-02,1.241000e-03,1.978157e-02,1.261000e-03,1.990824e-02,1.281000e-03,2.003368e-02,1.301000e-03,2.015791e-02,1.321000e-03,2.028100e-02,1.341000e-03,2.040295e-02,1.361000e-03,2.052382e-02,1.381000e-03,2.064364e-02,1.401000e-03,2.076243e-02,1.421000e-03,2.088022e-02,1.441000e-03,2.099705e-02,1.461000e-03,2.111294e-02,1.481000e-03,2.122793e-02,1.501000e-03,2.134202e-02,1.521000e-03,2.145526e-02,1.541000e-03,2.156766e-02,1.561000e-03,2.167925e-02,1.581000e-03,2.179005e-02,1.601000e-03,2.190007e-02,1.621000e-03,2.200935e-02,1.641000e-03,2.211790e-02,1.661000e-03,2.222574e-02,1.681000e-03,2.233289e-02,1.701000e-03,2.243936e-02,1.721000e-03,2.254518e-02,1.741000e-03,2.265036e-02,1.761000e-03,2.275492e-02,1.781000e-03,2.285886e-02,1.801000e-03,2.296222e-02,1.821000e-03,2.306500e-02,1.841000e-03,2.316721e-02,1.861000e-03,2.326888e-02,1.881000e-03,2.337001e-02,1.901000e-03,2.347062e-02,1.921000e-03,2.357072e-02,1.941000e-03,2.367032e-02,1.961000e-03,2.376943e-02,1.981000e-03,2.386807e-02,2.001000e-03,2.396625e-02,2.021000e-03,2.406398e-02,2.041000e-03,2.416126e-02,2.061000e-03,2.425812e-02,2.081000e-03,2.435455e-02,2.101000e-03,2.445057e-02,2.121000e-03,2.454620e-02,2.141000e-03,2.464143e-02,2.161000e-03,2.473628e-02,2.181000e-03,2.483075e-02,2.201000e-03,2.492486e-02,2.221000e-03,2.501862e-02,2.241000e-03,2.511203e-02,2.261000e-03,2.520509e-02,2.281000e-03,2.529783e-02,2.301000e-03,2.539024e-02,2.321000e-03,2.548234e-02,2.341000e-03,2.557412e-02,2.361000e-03,2.566561e-02,2.381000e-03,2.575680e-02,2.401000e-03,2.584770e-02,2.421000e-03,2.593832e-02,2.441000e-03,2.602867e-02,2.461000e-03,2.611875e-02,2.481000e-03,2.620856e-02,2.501000e-03,2.629813e-02,2.521000e-03,2.638744e-02,2.541000e-03,2.647651e-02,2.561000e-03,2.656534e-02,2.581000e-03,2.665394e-02,2.601000e-03,2.674231e-02,2.621000e-03,2.683047e-02,2.641000e-03,2.691841e-02,2.661000e-03,2.700613e-02,2.681000e-03,2.709366e-02,2.701000e-03,2.718098e-02,2.721000e-03,2.726811e-02,2.741000e-03,2.735506e-02,2.761000e-03,2.744181e-02,2.781000e-03,2.752839e-02,2.801000e-03,2.761479e-02,2.821000e-03,2.770102e-02,2.841000e-03,2.778709e-02,2.861000e-03,2.787299e-02,2.881000e-03,2.795874e-02,2.901000e-03,2.804434e-02,2.921000e-03,2.812979e-02,2.941000e-03,2.821509e-02,2.961000e-03,2.830025e-02,2.981000e-03,2.838528e-02,3.001000e-03,2.847018e-02,3.021000e-03,2.855494e-02,3.041000e-03,2.863959e-02,3.061000e-03,2.872411e-02,3.081000e-03,2.880852e-02,3.101000e-03,2.889282e-02,3.121000e-03,2.897700e-02,3.141000e-03,2.906109e-02,3.161000e-03,2.914507e-02,3.181000e-03,2.922895e-02,3.201000e-03,2.931274e-02,3.221000e-03,2.939644e-02,3.241000e-03,2.948004e-02,3.261000e-03,2.956357e-02,3.281000e-03,2.964701e-02,3.301000e-03,2.973038e-02,3.321000e-03,2.981368e-02,3.341000e-03,2.989690e-02,3.361000e-03,2.998005e-02,3.381000e-03,3.006314e-02,3.401000e-03,3.014617e-02,3.421000e-03,3.022914e-02,3.441000e-03,3.031205e-02,3.461000e-03,3.039492e-02,3.481000e-03,3.047773e-02,3.501000e-03,3.056049e-02,3.521000e-03,3.064322e-02,3.541000e-03,3.072590e-02,3.561000e-03,3.080854e-02,3.581000e-03,3.089115e-02,3.601000e-03,3.097373e-02,3.621000e-03,3.105628e-02,3.641000e-03,3.113880e-02,3.661000e-03,3.122130e-02,3.681000e-03,3.130377e-02,3.701000e-03,3.138623e-02,3.721000e-03,3.146868e-02,3.741000e-03,3.155111e-02,3.761000e-03,3.163353e-02,3.781000e-03,3.171594e-02,3.801000e-03,3.179835e-02,3.821000e-03,3.188075e-02,3.841000e-03,3.196315e-02,3.861000e-03,3.204556e-02,3.881000e-03,3.212797e-02,3.901000e-03,3.221039e-02,3.921000e-03,3.229282e-02,3.941000e-03,3.237526e-02,3.961000e-03,3.245772e-02,3.981000e-03,3.254019e-02,4.001000e-03,3.262268e-02,4.021000e-03,3.270520e-02,4.041000e-03,3.278774e-02,4.061000e-03,3.287031e-02,4.081000e-03,3.295290e-02,4.101000e-03,3.303553e-02,4.121000e-03,3.311819e-02,4.141000e-03,3.320089e-02,4.161000e-03,3.328362e-02,4.181000e-03,3.336640e-02,4.201000e-03,3.344921e-02,4.221000e-03,3.353208e-02,4.241000e-03,3.361499e-02,4.261000e-03,3.369795e-02,4.281000e-03,3.378096e-02,4.301000e-03,3.386403e-02,4.321000e-03,3.394715e-02,4.341000e-03,3.403033e-02,4.361000e-03,3.411357e-02,4.381000e-03,3.419687e-02,4.401000e-03,3.428024e-02,4.421000e-03,3.436368e-02,4.441000e-03,3.444718e-02,4.461000e-03,3.453075e-02,4.481000e-03,3.461440e-02,4.501000e-03,3.469813e-02,4.521000e-03,3.478193e-02,4.541000e-03,3.486581e-02,4.561000e-03,3.494977e-02,4.581000e-03,3.503381e-02,4.601000e-03,3.511794e-02,4.621000e-03,3.520216e-02,4.641000e-03,3.528646e-02,4.661000e-03,3.537086e-02,4.681000e-03,3.545536e-02,4.701000e-03,3.553994e-02,4.721000e-03,3.562463e-02,4.741000e-03,3.570941e-02,4.761000e-03,3.579430e-02,4.781000e-03,3.587929e-02,4.801000e-03,3.596438e-02,4.821000e-03,3.604958e-02,4.841000e-03,3.613489e-02,4.861000e-03,3.622031e-02,4.881000e-03,3.630585e-02,4.901000e-03,3.639150e-02,4.921000e-03,3.647726e-02,4.941000e-03,3.656315e-02,4.961000e-03,3.664915e-02,4.981000e-03,3.673528e-02,5.001000e-03,3.682153e-02,5.021000e-03,3.690791e-02,5.041000e-03,3.699442e-02,5.061000e-03,3.708105e-02,5.081000e-03,3.716782e-02,5.101000e-03,3.725472e-02,5.121000e-03,3.734176e-02,5.141000e-03,3.742893e-02,5.161000e-03,3.751624e-02,5.181000e-03,3.760369e-02,5.201000e-03,3.769129e-02,5.221000e-03,3.777903e-02,5.241000e-03,3.786691e-02,5.261000e-03,3.795495e-02,5.281000e-03,3.804313e-02,5.301000e-03,3.813146e-02,5.321000e-03,3.821995e-02,5.341000e-03,3.830859e-02,5.361000e-03,3.839739e-02,5.381000e-03,3.848634e-02,5.401000e-03,3.857546e-02,5.421000e-03,3.866473e-02,5.441000e-03,3.875417e-02,5.461000e-03,3.884378e-02,5.481000e-03,3.893355e-02,5.501000e-03,3.902349e-02,5.521000e-03,3.911360e-02,5.541000e-03,3.920388e-02,5.561000e-03,3.929433e-02,5.581000e-03,3.938496e-02,5.601000e-03,3.947577e-02,5.621000e-03,3.956675e-02,5.641000e-03,3.965791e-02,5.661000e-03,3.974926e-02,5.681000e-03,3.984078e-02,5.701000e-03,3.993249e-02,5.721000e-03,4.002439e-02,5.741000e-03,4.011648e-02,5.761000e-03,4.020875e-02,5.781000e-03,4.030121e-02,5.801000e-03,4.039387e-02,5.821000e-03,4.048672e-02,5.841000e-03,4.057977e-02,5.861000e-03,4.067301e-02,5.881000e-03,4.076645e-02,5.901000e-03,4.086009e-02,5.921000e-03,4.095393e-02,5.941000e-03,4.104797e-02,5.961000e-03,4.114222e-02,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.128066e-09        $ corner 19.58 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 5.324757e-10        $ corner 298.9 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 3.385250e-11        $ corner 4701 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 2.872509e-13        $ corner 5.541e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 1.297303e-13        $ corner 1.227e+06 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 6.015838e-15        $ corner 2.646e+07 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

